US06316466B1
A mixture of 4-fluorophenylhydrazine (4.25 g, 33.7 mmol) and 2-(3-bromobenzoyl)-3-phenylaminoacrylonitrile (10.0 g, 30.7 mmol) in ethanol (100 ml) was heated at reflux under a nitrogen atmosphere. After 4 h, the reaction mixture was cooled to room temperature, diluted with hexane to give 5-amino-4-(3-bromobenzoyl)-1-(4-fluorophenyl)pyrazole (9.7 g) as a solid.

reactant | 4-fluorophenylhydrazine | 33.7 mmol, 4.25 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2-(3-bromobenzoyl)-3-phenylaminoacrylonitrile | 30.7 mmol, 10.0 g | BrC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11BrN2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 5-amino-4-(3-bromobenzoyl)-1-(4-fluorophenyl)pyrazole | 9.7 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)Br)=O | C16H11BrFN3O
